US05981523
Preparation of (Z)-2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-methyl-3-thiomorpholinone-1-oxide.
A solution of (Z)-2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-methyl-3-thiomorpholinone (1.25 g, 3.6 mmol) in dichloromethane (18 ml) was cooled under nitrogen to 0° C. A solution of m-chioroperoxybenzoic acid (0.78 g, 3.6 mmol) in dichloromethane (llml) was then added dropwise over 5 minutes. The reaction mixture was stirred an additional 25 minutes and washed once with saturated sodium bicarbonate. The organic layer was dried over sodium sulfate. Rotary evaporation gave crude product which was crystallized from ethyl acetate-hexane to give desired product (1.04 g, 79%):

reactant | (Z)-2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-methyl-3-thiomorpholinone | 3.6 mmol, 1.25 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)\C=C/1\C(N(CCS1)C)=O | C20H29NO2S
reactant | m-chioroperoxybenzoic acid | 3.6 mmol, 0.78 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
product | (Z)-2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-methyl-3-thiomorpholinone-1-oxide | 1.04 g, 79% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)\C=C/1\C(N(CCS1=O)C)=O | C20H29NO3S
